US05840732
ii) Synthesis of 5-(dimethylamino)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride
To a solution of 310 mg (0.823 mmol) of 5-(dimethylamino)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 10 ml of methanol, concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 311 mg (84.1%, white powder) of the desired product.

reactant | 5-(dimethylamino)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 0.823 mmol, 310 mg | CN(C)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C17H20N4O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-(dimethylamino)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride | Cl.Cl.CN(C)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C17H20N4O2S2.2ClH/c1-19(2)12-13-16(22)21(17(23)25-13)9-3-4-11-24-15-7-5-6-14-18-8-10-20(14)15;;/h5-8,10,12H,3-4,9,11H2,1-2H3;2*1H
